US07105544B2
2-(4-CHLOROPHENYL)-N-(3-{4-[4-FLUORO-3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2-METHYLPROPANAMIDE
Example 49 was prepared from 2-(4-chlorophenyl)-2-methylpropanoic acid and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 8.34–8.20 (m, 1H), 7.46–7.14 (m, 5H), 7.10–6.95 (m, 1H), 6.92–6.77 (br, 1H), 6.74–6.59 (br, 1H), 3.39–3.25 (m, 2H), 3.00–2.82 (m, 2H), 2.67–2.51 (m, 1H), 2.51–2.40 (m, 1H), 2.40–2.27 (m, 2H), 2.03–1.86 (m, 2H), 1.85–1.71 (m, 2H), 1.71–1.57 (m, 4H), 1.56 (s, 6H), 1.27 (d, 6H, J=6.8 Hz); ESMS m/e: 502.3 (M+H)+.

reactant | 2-(4-chlorophenyl)-2-methylpropanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11ClO2
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(C(C)C)=O)F | C18H28FN3O
product | 2-(4-CHLOROPHENYL)-N-(3-{4-[4-FLUORO-3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2-METHYLPROPANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C1=CC(=C(C=C1)F)NC(C(C)C)=O)(C)C | C28H37ClFN3O2
